US09260416B2
Step 3: [4-(1-Ethoxycarbonylmethyl-1H-pyrazol-4-yldisulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester
[4-(4-Methoxy-benzylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester (1.96 g, 6.4 mmol) was dissolved in trifluoroacetic acid (20 mL) and heated to 70° C. overnight. The temperature was increased to 120° C. and the reaction stirred overnight again. The reaction mixture was concentrated, azeotroping with toluene, then purified via silica gel chromatography (0-100% EtOAc in hexanes) to yield the title compound.

reactant | [4-(4-Methoxy-benzylsulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | 6.4 mmol, 1.96 g | C(C)OC(CN1N=CC(=C1)SCC1=CC=C(C=C1)OC)=O | C15H18N2O3S
solvent | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [4-(1-Ethoxycarbonylmethyl-1H-pyrazol-4-yldisulfanyl)-pyrazol-1-yl]-acetic acid ethyl ester | C(C)OC(CN1N=CC(=C1)SSC=1C=NN(C1)CC(=O)OCC)=O | C14H18N4O4S2
